US05342948
1-[3-oxo-androst-4-ene-17β-carbonyl]-1,3-diisopropylurea
1-[3-oxo-androst-4-ene-17β-carbonyl]-1,3-diisopropylthiourea m.p. 180°-183° C., [α]D +146° (C=1, DMF).

reactant | 1-[3-oxo-androst-4-ene-17β-carbonyl]-1,3-diisopropylthiourea | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)N(C(=S)NC(C)C)C(C)C | C27H42N2O2S
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-[3-oxo-androst-4-ene-17β-carbonyl]-1,3-diisopropylurea | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)N(C(=O)NC(C)C)C(C)C | C27H42N2O3
